US07696231B2
N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-((5-nitro)-2-furohydrazide)
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added 5-nitro-2-furohydrazide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 158 mg of the title compound (74%) as a Orange solid in 98.3% purity by HPLC (Rt: 5.31, gradient of 10 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 5-nitro-2-furohydrazide | [N+](=O)([O-])C1=CC=C(O1)C(=O)NN | C5H5N3O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-((5-nitro)-2-furohydrazide) | 158 mg, 74% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(=O)C=1OC(=CC1)[N+](=O)[O-] | C13H7IN4O5
